US07629358B2
Preparation 31: 2-(3-bromophenyl)-1,1-dimethylethylamine
A solution of N-[2-(3-bromophenyl)-1,1-dimethylethyl]-2-chloroacetamide (Preparation 30) (32.0 g, 105 mmol), thiourea (9.60 g, 126 mmol) and acetic acid (50 ml) in ethanol (250 ml) was heated to reflux overnight. The reaction mixture was cooled to room temperature and filtered, the filtrate was concentrated in vacuo and basified using aqueous sodium hydroxide solution (1M, 450 ml). The product was extracted with dichloromethane (2×500 ml) and the combined organics washed with brine (50 ml), dried (sodium sulfate) and the solvent removed in vacuo to afford the title compound as a black oil (23 g). 1H NMR (400 MHz, CDCl3) δ=7.36-7.32 (2H, m), 7.16-7.08 (2H, m), 2.62 (2H, s), 1.84 (2H, bs), 1.12 (6H, s). LRMS (electrospray) m/z 228 [M+H]+

reactant | N-[2-(3-bromophenyl)-1,1-dimethylethyl]-2-chloroacetamide | 105 mmol, 32.0 g | BrC=1C=C(C=CC1)CC(C)(C)NC(CCl)=O | C12H15BrClNO
reactant | thiourea | 126 mmol, 9.60 g | NC(=S)N | CH4N2S
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-(3-bromophenyl)-1,1-dimethylethylamine | 23 g | BrC=1C=C(C=CC1)CC(C)(C)N | C10H14BrN
